US08748624B2
STEP E: ethyl 3-(5-(2-(((2-chloro-4′-fluoro-3′-(trifluoromethyl)-[1,1′-biphenyl]-4-yl)amino)methyl)-4,5-difluorophenyl)picolinamido)propanoate
Ethyl 3-(5-(2-(((3-chloro-4-iodophenyl)amino)methyl)-4,5-difluorophenyl)picolinamido)propanoate (123 mg, 0.21 mmol), (4-fluoro-3-(trifluoromethyl)phenyl)boronic acid (85 mg, 0.41 mmol), Pd(dppf)Cl2 (23 mg, 0.03 mmol), and K2CO3 (85 mg, 0.62 mmol) were dissolved in 1,4-dioxane (1 mL) and water (0.3 mL) and the resulting mixture was heated to 70° C. After 1 h the resulting mixture directly purified via column chromatography to yield the title compound.

reactant | Ethyl 3-(5-(2-(((3-chloro-4-iodophenyl)amino)methyl)-4,5-difluorophenyl)picolinamido)propanoate | 0.21 mmol, 123 mg | ClC=1C=C(C=CC1I)NCC1=C(C=C(C(=C1)F)F)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC | C24H21ClF2IN3O3
reactant | (4-fluoro-3-(trifluoromethyl)phenyl)boronic acid | 0.41 mmol, 85 mg | FC1=C(C=C(C=C1)B(O)O)C(F)(F)F | C7H5BF4O2
reactant | K2CO3 | 0.62 mmol, 85 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 0.3 mL | O | H2O
solvent | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.03 mmol, 23 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | ethyl 3-(5-(2-(((2-chloro-4′-fluoro-3′-(trifluoromethyl)-[1,1′-biphenyl]-4-yl)amino)methyl)-4,5-difluorophenyl)picolinamido)propanoate | ClC1=C(C=CC(=C1)NCC1=C(C=C(C(=C1)F)F)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC)C1=CC(=C(C=C1)F)C(F)(F)F | C31H24ClF6N3O3
